US06982268B2
To THF (200 mL) at −30° C. under N2 is added n-butyllithium (2.5 M in hexane, 8 mL, 20 mmol), followed by 2,2,6,6-tetramethylpiperidine (3.5 mL, 20.5 mmol). The mixture is warmed to room temperature and stirred at this temperature for 10 minutes. After the mixture is cooled to −78° C., 2,6-dichloropyrazine (2.5 g, 16.75 mmol) in THF (25 mL) is added and the mixture is stirred at this temperature for 1 hour. To the mixture is added ethyl formate (2 mL, 24.4 mmol) and the mixture is stirred at this temperature for an additional 2 hours. The reaction is quenched with saturated NH4Cl (25 mL), warmed to room temperature, and diluted with ethyl acetate (200 mL). The organic layer is separated and dried, and solvent removed. Column chromatography on silica gel (15% ethyl acetate in hexane) gives 2.4 g of 3,5-dichloro-pyrazine-2-carbaldehyde as an oil.

reactant | n-butyllithium | 20 mmol, 2.5 M, 8 mL | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 20.5 mmol, 3.5 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2,6-dichloropyrazine | 16.75 mmol, 2.5 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | ethyl formate | 24.4 mmol, 2 mL | C(=O)OCC | C3H6O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3,5-dichloro-pyrazine-2-carbaldehyde | 2.4 g | ClC=1C(=NC=C(N1)Cl)C=O | C5H2Cl2N2O
